US05958292
A mixture of 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol (78.63 g, 0.3 mol, Aldrich Chemical Co., Milwaukee, Wis.), 1-fluoro-2,4-dinitrobenzene (18.6 g, 0.10 mmol), triethyl amine (42 mL, 0.3 mol) and acetone (100 mL) was heated to 80° C. for 1.5 hr. After aqueous workup the excess hexanediol was removed by Kugelrohr distillation and the dimer by-product was removed by crystallization. The residual oil was treated with pentafluorobenzonitrile (19.3 g, 0.10 mol), triethyl amine (15.3 mL, 0.11 mol) and acetone (100 mL) and heated to reflux for 4 h. Aqueous workup followed by extraction gave 4-[6-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluorobenzonitrile as an orange oil.

reactant | 2,2,3,3,4,4,5,5-octafluoro-1,6-hexanediol | 0.3 mol, 78.63 g | FC(CO)(C(C(C(CO)(F)F)(F)F)(F)F)F | C6H6F8O2
reactant | 1-fluoro-2,4-dinitrobenzene | 0.10 mmol, 18.6 g | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | triethyl amine | 0.3 mol, 42 mL | C(C)N(CC)CC | C6H15N
reactant | pentafluorobenzonitrile | 0.10 mol, 19.3 g | FC1=C(C(=C(C(=C1C#N)F)F)F)F | C7F5N
reactant | triethyl amine | 0.11 mol, 15.3 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-[6-(2,4-dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluorobenzonitrile | [N+](=O)([O-])C1=C(OCC(C(C(C(COC2=C(C(=C(C#N)C(=C2F)F)F)F)(F)F)(F)F)(F)F)(F)F)C=CC(=C1)[N+](=O)[O-] | C19H7F12N3O6
